US07745490B2
To a stirred suspension of 3-Methoxy-4-methanesulfonylamino-N-(3,4-methylenedioxyphenyl)benzamide (200 mg) in dry CH2Cl2 (20 ml) under nitrogen, was added boron tribromide (0.3 ml) then stirring continued for a further 20 hours. Methanol (50 ml) was added carefully, then the solvent evaporated in vacuo to a volume of 1 ml, this was repeated 2 more times. Purification by column chromatography over silica gel eluting with chloroform containing methanol (10-20%) gave 3-Hydroxy-4-methanesulfonylamino-N-(3,4-dihydroxyphenyl)benzamide (DC51-DB) (65 mg, 34%) as pale brown crystals.

reactant | 3-Methoxy-4-methanesulfonylamino-N-(3,4-methylenedioxyphenyl)benzamide | 200 mg | COC=1C=C(C(=O)NC2=CC3=C(C=C2)OCO3)C=CC1NS(=O)(=O)C | C16H16N2O6S
reactant | boron tribromide | 0.3 ml | B(Br)(Br)Br | BBr3
reactant | Methanol | 50 ml | CO | CH4O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-Hydroxy-4-methanesulfonylamino-N-(3,4-dihydroxyphenyl)benzamide | 65 mg, 34% | OC=1C=C(C(=O)NC2=CC(=C(C=C2)O)O)C=CC1NS(=O)(=O)C | C14H14N2O6S
